US07964724B2
2-(3-Ethoxy-phenyl)-2-methyl-propionitrile was prepared using a procedure adapted from literature (Organic Syntheses, Vol. 79, pp. 209-215). To a solution of 1-ethoxy-3-fluoro benzene (3.0 g, 19.4 mmol) in 25 mL of toluene was added solid potassium bis(trimethylsilyl)amide (5.84 g, 29.2 mmol, 1.5 eq) followed by isobutyronitrile (7.08 mL, 77.8 mmol, 4 eq). The reaction mixture was stirred at 100° C. for 12 hr. It was diluted with 75 mL of ethyl acetate and 75 mL of 1N aqueous hydrochloric acid. The layers were separated, and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with water (1×50 mL), brine (1×50 mL), and dried over anhydrous magnesium sulfate. The solids were filtered off, and the filtrate was concentrated in vacuo. The residue was dissolved in 5 mL of methylene chloride and applied to a 40 g silica gel cartridge. The product was eluted using a gradient of ethyl acetate in hexanes to yield 2.96 g (15.6 mmol, 80%) of pure 2-(3-ethoxy-phenyl)-2-methyl-propionitrile. LR-MS: 190.12 [(M+H)+]

reactant | 1-ethoxy-3-fluoro benzene | 19.4 mmol, 3.0 g | C(C)OC1=CC(=CC=C1)F | C8H9FO
reactant | potassium bis(trimethylsilyl)amide | 29.2 mmol, 5.84 g, 1.5 eq | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | isobutyronitrile | 77.8 mmol, 7.08 mL, 4 eq | C(C(C)C)#N | C4H7N
solvent | toluene | 25 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
solvent | hydrochloric acid | 1N, 75 mL | Cl | ClH
product | 2-(3-ethoxy-phenyl)-2-methyl-propionitrile | 15.6 mmol, 2.96 g, 80% | C(C)OC=1C=C(C=CC1)C(C#N)(C)C | C12H15NO
